US04584308
A solution of 30 g (0.093 mol) of 2-(4-chlorophenyl)-2-[2-(p-chlorophenoxy)-prop-2-yl]-oxirane in 40 ml of n-propanol is added dropwise to a solution of 7.6 g (0.107 mol) of sodium 1,2,4-triazole in 60 ml of n-propanol at room temperature. The reaction mixture is subsequently stirred at the reflux temperature for 48 hours and is cooled, water is added and the mixture is extracted with methylene chloride. The organic phase is dried over sodium sulphate and concentrated in vacuo. The oily residue is purified by column chromatography. 6.7 g (18.4% of theory) of 3-(4-chlorophenoxy)-2-(4-chlorophenyl)-3-methyl-1-(1,2,4-triazol-1-yl)-2-butanol are obtained. This product is stirred with 20 ml of saturated hydrogen chloride/ether solution at room temperature. The precipitate which has separated out is filtered off with suction, rinsed with a little ether and dried at 40° C. in vacuo. 6.5 g (89% of theory, based on the base employed) of 3-(4-chlorophenoxy)-2-(4-chlorophenyl)-3-methyl-1-(1,2,4-triazol-1-yl)-2-butanol hydrochloride of melting point 135° C. are obtained.

reactant | 2-(4-chlorophenyl)-2-[2-(p-chlorophenoxy)-prop-2-yl]-oxirane | 0.093 mol, 30 g | ClC1=CC=C(C=C1)C1(OC1)C(C)(C)OC1=CC=C(C=C1)Cl | C17H16Cl2O2
reactant | sodium 1,2,4-triazole | 0.107 mol, 7.6 g | N1N=CN=C1.[Na]
reactant | water | O | H2O
solvent | n-propanol | 40 ml | C(CC)O | C3H8O
solvent | n-propanol | 60 ml | C(CC)O | C3H8O
product | 3-(4-chlorophenoxy)-2-(4-chlorophenyl)-3-methyl-1-(1,2,4-triazol-1-yl)-2-butanol | 6.7 g, 18.4% | ClC1=CC=C(OC(C(CN2N=CN=C2)(O)C2=CC=C(C=C2)Cl)(C)C)C=C1 | C19H19Cl2N3O2
